US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-3-dimethylamino-benzamide
The title compound (14 mg, 33%) was prepared analogously to example 8 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 3-dimethylaminobenzoic acid. MS: 416.4 (MH+).

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 3-dimethylaminobenzoic acid | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-3-dimethylamino-benzamide | 14 mg, 33% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CC(=CC=C2)N(C)C)=O)C=C1)OCC | C23H30ClN3O2
